* Dual op amp offset; channel 2
.include "C:/Users/basam/src/.smsnap/general/models/C-lm358/build/model/LM358.lib"
Vcc vcc 0 5
Vref ref 0 2.5
Xamp vcc other other ref 0 inp inm out LM358
Rload out 0 1e+12
Vin inp 0 0
Bservo servo 0 V=limit(1e4*(V(out)-1.4),-0.1,3.5)
Vsense inm servo 0
.tran 0 0.0001 0 1e-08
.temp 25
.options plotwinsize=0 numdgt=15 method=gear gminsteps=0 srcsteps=0
.save V(inp) V(inm) V(out) I(Vcc) I(Vin) I(Vsense)
.end
