.subckt TPS54332DDA BOOT VIN EN SS VSENSE COMP GND PH POWERPAD

* Pin leakage / DC paths
Rpad POWERPAD GND 1G
Rboot BOOT PH 1Meg
Rvsense VSENSE GND 1G
Rcomp_pd COMP GND 1G
Rss SS GND 100Meg
Rpu VIN EN 540Meg
Ren1 EN GND 1.18Meg
Ben_sw_ctrl en_sw_ctrl GND V=0.5*(1+tanh((V(EN,GND)-1.25)/0.05))
Sen EN sw_en en_sw_ctrl 0 SWEN
Ren2 sw_en GND 445k
.model SWEN SW(Ron=1 Roff=1Meg Vt=0.5 Vh=0.1)

* Enable comparator
Ben_ok en_ok GND V=0.5*(1+tanh((V(EN,GND)-1.25)/0.05))

* SS boost control
Bboost_ctrl boost_ctrl GND V=0.5*(1+tanh((0.1 - V(SS,GND))/0.01))

* SS charge/discharge
Bcharge SS GND I= -2u * V(en_ok,GND) + 10u * (1 - V(en_ok,GND))
Bboost SS GND I= -200u * V(en_ok,GND) * V(boost_ctrl,GND)

* SS clamp to 0.8V
Vref08 ref08 GND 0.8
Bclamp_ctrl clamp_ctrl GND V=0.5*(1+tanh((V(SS,GND)-0.8)/0.01))
Sclamp SS ref08 clamp_ctrl 0 SWCLAMP
.model SWCLAMP SW(Ron=1 Roff=1Meg Vt=0.5 Vh=0.1)

* Reference from SS with 10mV matching
Bvref vref GND V=limit(V(SS,GND),0,0.8) + 0.01*limit((0.8 - V(SS,GND))*10,0,1)

* Error amplifier
Bcomp COMP GND I=V(en_ok,GND) * limit(70u*(V(VSENSE,GND)-V(vref,GND)), -7u, 7u)

* COMP clamp to 2.2875V (max duty ~91.5%)
Vcomp_max comp_max GND 2.2875
Bcomp_clamp_ctrl comp_clamp_ctrl GND V=0.5*(1+tanh((V(COMP,GND)-2.2875)/0.01))
Scomp_clamp COMP comp_max comp_clamp_ctrl 0 SWCOMP
.model SWCOMP SW(Ron=1 Roff=1Meg Vt=0.5 Vh=0.1)

* VIN quiescent current
Bq VIN GND I=1u + 81u * V(en_ok,GND) * limit((V(VSENSE,GND)-V(vref,GND))/0.01, 0, 1)

* Oscillator (falling sawtooth 2.5V to 0 at 1MHz)
Bosc osc GND V=2.5*(1 - (time/1u - floor(time/1u)))

* Power stage
Rsw SW PH 0.01
S1 VIN SW ctrl 0 SWMOD
Dlow GND PH DLOW

* Switch control: PWM with current limit
Bctrl ctrl GND V=0.5*(1+tanh((V(COMP,GND)-V(osc,GND))/0.01)) * 0.5*(1-tanh(((V(SW,GND)-V(PH,GND))/0.01 - 5)/0.2))

* Models
.model SWMOD SW(Ron=0.1 Roff=10Meg Vt=0.5 Vh=0.1)
.model DLOW D(RS=0.05)

.ends TPS54332DDA
