* Frozen fixture: Measure EN input current at enable threshold - 50 mV.
.include "C:/Users/basam/src/.smsnap/general/models/B-tps54332-full/build/model/TPS54332DDA.lib"
V_VIN VIN 0 12
C_IN VIN 0 10e-6
V_EN EN 0 1.2
C_BOOT BOOT PH 0.1e-6
C_SS SS 0 10e-9
L1 PH VOUT 4.7e-6
C_OUT VOUT 0 47e-6
R_LOAD VOUT 0 1.0
R_COMP COMP 0 10e3
C_COMP COMP 0 1e-9
Xdut BOOT VIN EN SS VOUT COMP 0 PH 0 TPS54332DDA
.temp 25
.options plotwinsize=0 numdgt=15
.tran 0 0.001 0 1e-06
.save I(V_EN)
.end
